US09301951B2
(S)—N1-(2-(bis(2-methoxyethyl)amino)ethyl)-N1-methyl-N3-(4-(piperidin-1-yl)-2-(4-(1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenyl)isophthalamide
This compound was prepared according to the procedure described for the synthesis of Example 187 using bis(2-methoxyethyl)amine in place of L-proline-tert-butyl ester. Into a 25-mL round-bottom flask, was placed a solution of (S)—N1-methyl-N1-(2-oxoethyl)-N3-(4-(piperidin-1-yl)-2-(4-(1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenyl)isophthalamide (100 mg, 0.16 mmol, 1.00 equiv) in ethanol (1 mL), bis(2-methoxyethyl)amine (25 mg, 0.19 mmol, 1.20 equiv), NaBH3CN (20 mg, 0.32 mmol, 2.00 equiv), acetic acid (1.0 mg, 0.02 mmol, 0.10 equiv). The resulting solution was stirred for 2 h at 25° C. The reaction was then quenched by the addition of 10 mL of water. The resulting solution was extracted with 2×10 mL of ethyl acetate and the organic layers combined and dried over anhydrous sodium sulfate and concentrated under vacuum. The crude product (100 mg) was purified by Prep-HPLC with the following conditions (1#-Waters 2767-3): Column, SunFire Prep C18, 19*150 mm 5 um; mobile phase, water with 0.05% TFA and CH3CN (25% CH3CN up to 38% in 6 min); Detector, Waters2545 UvDector 254&270 nm. 47.9 mg product was obtained. This resulted in 47.9 mg (40%) of (S)—N1-(2-(bis(2-methoxyethyl)amino)ethyl)-N1-methyl-N3-(4-(piperidin-1-yl)-2-(4-(1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenyl)isophthalamide as a yellow solid. LC-MS (ES, m/z): 747 [M+H]+ H-NMR (300 MHz, DMSO, ppm): 12.24 (s, 1H), 9.50 (s, 1H), 9.20 (d, J=9 Hz, 1H), 8.89 (d, J=3 Hz, 1H), 8.24-8.32 (m, 2H), 7.99 (d, J=6 Hz, 2H), 7.86 (d, J=6 Hz, 1H), 7.60-7.69 (m, 3H), 7.30 (s, 1H), 7.10-7.24 (m, 4H), 5.25 (t, J=6.9 Hz, 1H), 3.80 (d, J=33 Hz, 5H), 3.63 (s, 6H), 3.33 (s, 12H), 2.97 (s, 4H), 2.74 (s, 2H), 1.96-2.00 (m, 2H), 1.73-1.88 (m, 6H), 1.60 (d, J=6 Hz, 2H).

reactant | bis(2-methoxyethyl)amine | COCCNCCOC | C6H15NO2
reactant | (S)—N1-methyl-N1-(2-oxoethyl)-N3-(4-(piperidin-1-yl)-2-(4-(1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenyl)isophthalamide | 0.16 mmol, 100 mg, 1.00 equiv | CN(C(C1=CC(C(=O)NC2=C(C=C(C=C2)N2CCCCC2)C2=NC=CC(=C2)C(N[C@H]2CCCC3=CC=CC=C23)=O)=CC=C1)=O)CC=O | C38H39N5O4
reactant | bis(2-methoxyethyl)amine | 0.19 mmol, 25 mg, 1.20 equiv | COCCNCCOC | C6H15NO2
reactant | NaBH3CN | 0.32 mmol, 20 mg, 2.00 equiv | [BH3-]C#N.[Na+]
reactant | acetic acid | 0.02 mmol, 1.0 mg, 0.10 equiv | C(C)(=O)O | C2H4O2
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | (S)—N1-(2-(bis(2-methoxyethyl)amino)ethyl)-N1-methyl-N3-(4-(piperidin-1-yl)-2-(4-(1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenyl)isophthalamide | 47.9 mg | COCCN(CCN(C(C1=CC(C(=O)NC2=C(C=C(C=C2)N2CCCCC2)C2=NC=CC(=C2)C(N[C@H]2CCCC3=CC=CC=C23)=O)=CC=C1)=O)C)CCOC | C44H54N6O5
